US04496571
A mixture of 4-amino-2-(5-phthalimidopentyl)pyrimidine (2 g.) and propylisothiocyanate (1 g.) in pyridine (5 ml.) was heated under reflux for 16 hours then evaporated to dryness. The residual solid was triturated with acetonitrile to give 4-(3-propylthioureido)-2-(5-phthalimidopentyl)pyrimidine (1.7 g.), m.p. 146°-149°.

reactant | 4-amino-2-(5-phthalimidopentyl)pyrimidine | 2 g | NC1=NC(=NC=C1)CCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C17H18N4O2
reactant | propylisothiocyanate | 1 g | C(CC)N=C=S | C4H7NS
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 4-(3-propylthioureido)-2-(5-phthalimidopentyl)pyrimidine | 1.7 g | C(CC)NC(NC1=NC(=NC=C1)CCCCCN1C(C=2C(C1=O)=CC=CC2)=O)=S | C21H25N5O2S
